US09359339B2
Step D. 7-Bromo-5-(trifluoromethyl)-1-benzothiophene
To a mixture of quinoline (5 mL) and copper powder (0.39 g, 6.2 mmol) in a sealed tube was added 7-bromo-5-(trifluoromethyl)-1-benzothiophene-2-carboxylic acid (1.0 g, 3.1 mmol). The mixture was heated to 200° C. for 20 minutes, then allowed to cool to room temperature. The mixture was filtered, then the collected precipitate was washed with toluene. The filtrate was concentrated, then the resulting brown oil was diluted with EtOAc and poured into 6.0 M HCl (aq). The layers were separated, then the aqueous layer was extracted with ethyl acetate. The combined organic layers were washed with 6.0 M HCl (aq), water, then saturated NaCl (aq), dried over Na2SO4, filtered, then concentrated. The residue was purified by silica gel chromatography eluting with 0-1% EtOAc/hexanes to afford the title compound as a colorless oil. 1H NMR (500 MHz, CDCl3) δ 8.10 (br s, 1H); 7.77 (br s, 1H); 7.69 (d, J=5.5 Hz, 1H); 7.57 (d, J=5.5 Hz, 1H). LC1: 4.02 min. Compound does not ionize.

reactant | quinoline | 5 mL | N1=CC=CC2=CC=CC=C12 | C9H7N
reactant | 7-bromo-5-(trifluoromethyl)-1-benzothiophene-2-carboxylic acid | 3.1 mmol, 1.0 g | BrC1=CC(=CC=2C=C(SC21)C(=O)O)C(F)(F)F | C10H4BrF3O2S
catalyst | copper | 6.2 mmol, 0.39 g | [Cu] | Cu
product | 7-Bromo-5-(trifluoromethyl)-1-benzothiophene | BrC1=CC(=CC=2C=CSC21)C(F)(F)F | C9H4BrF3S
